*Tunnel Diode Default  MCE  A K  7-14-95
*MCE 600V 50A 27.2ns pkg:TO-220
.SUBCKT XTUNNEL 1 2
RS  1 3  6
RP  3 4  -75
CP  3 4  0.6E-12
LS  4 2  0.1E-9
.ENDS XTUNNEL 
